US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 mol), tert-butyl 1-(3-aminophenyl)ethylcarbamate (124 mg, 526 mol), xantphos (60.9 mg, 105 mol), Pd2(dba)3 (32.1 mg, 35.1 mol) and cesium carbonate (229 mg, 702 mol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. The mixture was cooled then filtered through a pad of celite. The filtrate was concentrated in vacuo then purified by chromatography (silica, 20-40% ethyl acetate in hexanes) gave tert-butyl 1-(3-(7-(tert-butylcarbamoyl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)phenyl)ethylcarbamate (150 mg, 257 mol, 73%) as a yellow gum. (EI/CI) m/z: 583.5 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 mol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | tert-butyl 1-(3-aminophenyl)ethylcarbamate | 526 mol, 124 mg | NC=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C13H20N2O2
reactant | xantphos | 105 mol, 60.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 702 mol, 229 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 35.1 mol, 32.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 1-(3-(7-(tert-butylcarbamoyl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)phenyl)ethylcarbamate | 257 mol, 150 mg, 73% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=C(C=CC2)C(C)NC(OC(C)(C)C)=O)COCC[Si](C)(C)C | C30H46N6O4Si
